US07704995B2
A solution of 3.0 mL (0.023 mol) {[2-(methoxy)phenyl]methyl}amine was refluxed in 50 mL 33% HBr in glacial acetic acid until the full deprotection of the starting material. The solvent was evaporated to obtain 4.7 g 2-(aminomethyl)phenol hydrobromide: MS (EI) for C7H9NO: 124.1 (MH+).

reactant | {[2-(methoxy)phenyl]methyl}amine | 0.023 mol, 3.0 mL | COC1=C(C=CC=C1)CN | C8H11NO
reactant | HBr | 50 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(aminomethyl)phenol hydrobromide | 4.7 g | Br.NCC1=C(C=CC=C1)O | InChI=1S/C7H9NO.BrH/c8-5-6-3-1-2-4-7(6)9;/h1-4,9H,5,8H2;1H
